US03960918
Following substantially the procedure of Example 1, a reaction mixture is prepared from 400.3 grams (4.45 gramatoms of sulfur) of 40% oleum, 1930 grams (36.4 moles) of acrylonitrile (containing 0.013% water) and 56 grams (1 equivalent) of isobutene. The addition rates are the same as in Example 1 except that the oleum addition rate is 6.8 grams per minute. Following the completion of the acrylonitrile and isobutene addition, oleum addition is continued until the indicated amount has been introduced. The reaction mixture is then poured into 128 grams (4 moles) of methanol at 5°-10°C., over one hour. p-Methoxyphenol, 0.5 gram, is added as a polymerization inhibitor and the solution is poured over 1000 grams of ice. The organic layer is separated; the aqueous layer is washed with aqueous sodium sulfate solution and extracted with three 500-ml. portions of chloroform. The organic layer and chloroform extracts are dried over magnesium sulfate and the volatile materials are stripped to yield the desired methyl 2-acrylamido-2-methylpropanesulfonate which is recrystallized from a benzene-cyclohexane mixture. The recrystallized product melts at 78°-81°C.

reactant | oleum | 400.3 grams | OS(=O)(=O)O.O=S(=O)=O
reactant | acrylonitrile | 36.4 moles, 1930 grams | C(C=C)#N | C3H3N
reactant | isobutene | 56 grams, 1 equivalent | C=C(C)C | C4H8
reactant | methanol | 4 moles, 128 grams | CO | CH4O
reactant | p-Methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
product | methyl 2-acrylamido-2-methylpropanesulfonate | C(C=C)(=O)NC(CS(=O)(=O)OC)(C)C | C8H15NO4S
